US07700641B2
B. Synthesis of tert-butyl 3-(2′-oxo-1′,2′-dihydrospiro[1-benzofuran-3,3′-indol]-5-yl)piperidine-1-carboxylate
To a mixture of 5-piperidin-3-ylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one, triethylamine (0.95 g, 9.36 mmol) in anhydrous dichloromethane (15.0 mL) was added di-tert-butyl dicarbonate (1.02 g, 4.68 mmol) at 0° C. The reaction mixture was stirred at ambient temperature and stirred over night under N2, diluted with dichloromethane (100 mL) and filtered through celite. The filtrate was concentrated in vacuo to dryness. The brown residue was subjected to column chromatography (ethyl acetate/hexane, 1/1) to give the title compound (0.50 g, 40%) as a white solid: mp 120-123° C.; 1H NMR (300 MHz, CDCl3) δ 7.82 (br, 1H), 7.23-7.21 (m, 2H), 7.14-6.86 (m, 5H), 6.63 (br, 1H), 4.95 (d, 1H), 4.69 (d, 1H), 4.10-4.00 (m, 2H), 2.70-2.45 (m, 2H), 1.95-1.80 (m, 2H), 1.48-1.38 (m, 11H); MS (ES+) m/z 443.4 (M+1).

reactant | 5-piperidin-3-ylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | N1CC(CCC1)C=1C=CC2=C(C1)C1(C(NC3=CC=CC=C13)=O)CO2 | C20H20N2O2
reactant | triethylamine | 9.36 mmol, 0.95 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 4.68 mmol, 1.02 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 15.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | tert-butyl 3-(2′-oxo-1′,2′-dihydrospiro[1-benzofuran-3,3′-indol]-5-yl)piperidine-1-carboxylate | 0.50 g, 40% | O=C1NC2=CC=CC=C2C12COC1=C2C=C(C=C1)C1CN(CCC1)C(=O)OC(C)(C)C | C25H28N2O4
